US05663189
A solution of 1.6 g of 5-isothiocyanato-4,7-dimethyl-1,3-benzodioxole in 35 mL of toluene at 25° C. is added to a solution of 1.89 g of ethylenediamine in 65 mL of toluene. The reaction gradually turns cloudy as a solid precipitates from solution. This solid is collected and dried under vacuum to give 2.0 g of 5-[N'-(2-aminoethyl)thioureido]-4,7-dimethyl-1,3-benzodioxole as a white solid.

reactant | 5-isothiocyanato-4,7-dimethyl-1,3-benzodioxole | 1.6 g | N(=C=S)C1=C(C2=C(OCO2)C(=C1)C)C | C10H9NO2S
reactant | ethylenediamine | 1.89 g | C(CN)N | C2H8N2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[N'-(2-aminoethyl)thioureido]-4,7-dimethyl-1,3-benzodioxole | 2.0 g | NCCNC(NC1=C(C2=C(OCO2)C(=C1)C)C)=S | C12H17N3O2S
